Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
ERCP
CBD stent placement
 
History of Present Illness:
___ MD: ___ ___
Patient is a ___ year old man with recent cholecystectomy 
(___) who was diagnosed with bile leak and underwent ERCP 
on ___ with CBD stent placement, now admitted for observation.

Patient recently underwent cholecystectomy on ___ at OSH for 
sxs related to choledocholithiasis. Following his surgery, he 
has had ongoing right sided abdominal pain for the past three 
days. He was seen at the surgery clinic follow up and diagnosed 
with with possible bile leak. He was referred to Dr ___ at 
___ for ERCP. He last took his Coumadin on ___ ___.

He underwent ERCP today with extravasation of contrast noted at 
the cystic duct consistent with leak, s/p CBD stent.

On arrival to floor, he reports he is asymptomatic currently. He 
is anxious about the upcoming MRI overnight, but otherwise 
denies any other sxs.
 
Past Medical History:
Atrial fibrillation
s/p cholecystectomy
 
Social History:
___
Family History:
no family hx of bowel disease
 
Physical Exam:
 Gen: NAD, lying in bed
 Eyes: EOMI, sclerae anicteric  
 ENT: MMM, OP clear
 GI: soft, NT, ND
 MSK: No significant kyphosis. No palpable synovitis.
 Skin: No visible rash. No jaundice.
 Neuro: AAOx3. No facial droop.
 Psych: Full range of affect 
 
Pertinent Results:
___ 02:35PM   UREA N-21* CREAT-1.0 SODIUM-136 POTASSIUM-3.9 
CHLORIDE-94* TOTAL CO2-26 ANION GAP-20
___ 02:35PM   estGFR-Using this
___ 02:35PM   ALT(SGPT)-32 AST(SGOT)-28 ALK PHOS-139* 
AMYLASE-62 TOT BILI-1.4 DIR BILI-0.6* INDIR BIL-0.8
___ 02:35PM   LIPASE-14
___ 02:35PM   WBC-11.3* RBC-4.12* HGB-12.3* HCT-37.4* 
MCV-91 MCH-29.9 MCHC-32.9 RDW-13.6 RDWSD-45.2
___ 02:35PM   PLT COUNT-221
___ 02:35PM   ___ PTT-29.9 ___

MRCP:
1.  Surgically absent gallbladder. Elongated, approximately 5.7 
x 1.2 x 1.7 cm heterogeneous, irregularly marginated, T2 
hypointense collection in the gallbladder fossa, which tracks 
along the medial margin of the inferior right hepatic lobe.  
Areas of T1 hyperintensity within this collection, likely 
representing hemorrhage.  No extravasation of hepatobiliary 
contrast into the collection to indicate bile leak. 
  
2.  Mild contour nodularity of the liver, suggestive of 
cirrhotic change.  No focal hepatic lesion. 

ERCP:
Impression: 
•Normal major papilla.  
•Cannulation of the biliary duct was successful and deep with a 
sphincterotome using a free-hand technique.  
•Contrast medium was injected resulting in complete 
opacification.  
•Upon contrast injection extravasation was noted at the cystic 
duct.  
•The right intrahepatic biliary tree was not well visualized.  
•A sphincterotomy was performed in the 12 o'clock position using 
a sphincterotome over an existing guidewire.  
•No evidence of post sphincterotomy bleeding  
•A ___ cm biliary plastic stent was placed.  
•Post stent placement excellent bile and contrast was noted both 
endoscopically and fluoroscopically.  
•Otherwise normal ercp to third part of the duodenum
 

 
Brief Hospital Course:
___ year old man with recent cholecystectomy (___) who was 
diagnosed with a bile leak and underwent ERCP on ___ with CBD 
stent placement. MRCP showed possible hemorrhage in the 
gallbladder fossa but no extravasation of hepatobiliary contrast 
into the collection to indicate bile leak. Of note, MRCP also 
showed liver contour nodularity concerning for cirrhosis. Pt was 
admitted post-procedure for observation. He did well overnight, 
H/H remained stable, and he was tolerating an oral diet with no 
abdominal pain prior to discharge.

He was instructed to complete a 5-day course of ciprofloxacin as 
an outpatient. Per the ERCP team, he was okay to resume his 
warfarin 24 hr post-procedure. He was instructed to have his INR 
checked in 2 days given the interaction with ciprofloxacin and 
warfarin. He will need repeat ERCP in 4 weeks for stent pull and 
re-evaluation. ERCP also recommended he follow-up with 
hepatology as an outpatient due to the findings on MRCP 
concerning for cirrhosis. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Warfarin 5 mg PO DAILY16 
3. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO/NG Q12H 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*8 Tablet Refills:*0 
2.  Atenolol 25 mg PO DAILY  
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Mild  
4.  Warfarin 5 mg PO DAILY16  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bile leak
Nodular liver

 
Discharge Condition:
condition: good
mental status: intact at baseline
ambulatory status: independent

 
Discharge Instructions:
You were admitted to the hospital for monitoring after having an 
ERCP to correct a bile leak. You tolerated the procedure well 
and post-procedure MRCP confirmed resolution of the leak. You 
should continue taking antibiotics as an outpatient and have 
been prescribed ciprofloxacin 500mg BID x 5 days. It is okay to 
resume your previous dose of warfarin tonight.

On MRCP, you were found to have some irregularities of your 
liver and should be seen by a liver specialist as an outpatient. 

 
Followup Instructions:
___